US05712300
Preparation of α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-N-hydroxy-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetamide
A cold (0° C.) solution of α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetic acid (559 mg) in CH2 Cl2 /DMF (8 mL/2 mL) is treated with 1-hydroxybenzotriazole (158 mg, 1.17 mmol), 4-methyknorpholine (129 μL, 1.17 mmol), and EDC (224 mg, 1.17 mmol). After 1 hour, additional 4-methylmorpholine (159 μL, 1.45 mmol) and hydroxylamine HCl (101 mg, 1.45 mmol) are added. The solution is allowed to slowly warm to room temperature, stirring under N2 overnight. The reaction mixture is diluted with H2O (25 mL) and extracted into CH2Cl2 (3×50 mL). The organic extracts are dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure, and reconstituted in EtOAc (50 mL). The EtOAc layer is washed with more H2O (3×25 mL) and brine (25 mL). The organic layer is dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure to give 416 mg of white foam. The foam is purified by silica gel chromatography (50 g SG, 2% MeOH/CHCl3) to yield 220 mg of white foam which is triturated with Et2O to give 181 mg (39%) of the title compound as a white solid (mp 162°-164° C.).

reactant | α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetic acid | 559 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)O)C1(C(N(CC1)CC1=CC=CC=C1)=O)CC(C)C | C27H30N2O5
reactant | 1-hydroxybenzotriazole | 1.17 mmol, 158 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 1.17 mmol, 224 mg
reactant | 4-methylmorpholine | 1.45 mmol, 159 μL | CN1CCOCC1 | C5H11NO
reactant | hydroxylamine HCl | 1.45 mmol, 101 mg | Cl.NO
solvent | Cl2 DMF | 8 mL | ClCl.CN(C)C=O
solvent | H2O | 25 mL | O | H2O
product | α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-N-hydroxy-3-(2-methylpropyl)-2-oxo-1-(phenylmethyl)-3-pyrrolidineacetamide | 416 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)NO)C1(C(N(CC1)CC1=CC=CC=C1)=O)CC(C)C | C27H31N3O5
